US04801717
A mixture of 25.2 g of 3-chloro-6-nitro-aniline, 21 g of arsenic acid and 35.1 ml of glycerine was heated to reflux and after cooling the mixture to 20°~30° C., 25.5 ml of 66° Be sulfuric acid were added thereto. The mixture was heated at 140° C. for 8 hours and was poured over ice. The mixture was filtered and the solid product was dissolved in methylene chloride. The solution was neutralized and extracted with methylene chloride. The combined organic phases were dried, treated with activated carbon, filtered and evaporated to dryness under reduced pressure. The 10 g of residue were chromatographed over silica gel and eluted with methylene chloride to obtain 8.61 g of 5-chloro-8-nitro-quinoline melting at 136°-138° C. which was reacted with N-hydroxyphthalimide to obtain 0-(8-nitro-5-quinolyl)-phthalimide melting at 226°-228° C. The latter was reacted to obtain 0-(8-nitro-5-quinolyl)-hydroxylamine melting at 186°-188° C.

reactant | 3-chloro-6-nitro-aniline | 25.2 g | ClC=1C=C(N)C(=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | arsenic acid | 21 g | [As](O)(O)(O)=O | AsH3O4
reactant | glycerine | 35.1 ml | OCC(O)CO | C3H8O3
product | 5-chloro-8-nitro-quinoline | 8.61 g | ClC1=C2C=CC=NC2=C(C=C1)[N+](=O)[O-] | C9H5ClN2O2
